US06239151B1
A solution of 0.459 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)-carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in 5 ml of dimethylformamide was cooled to 0° C. and treated with 0.378 g of N-tert.-butoxycarbonyl-β-alanine and 0.383 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodimide hydrochloride. The mixture was stirred at room temperature for 16 hours and diluted with ethyl acetate. The solution was washed in succession with water, 5% citric acid solution and water, dried over anhydrous magnesium sulphate and evaporated. Chromatography on silica gel using ethyl acetate/hexane (1:1) for the elution followed by evaporation gave 0.48 g of (E)-2′-(N-tert.-butoxycarbonyl-β-alanyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)-carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in the form of a white foam.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)-carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.459 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C26H41N3O4
reactant | N-tert.-butoxycarbonyl-β-alanine | 0.378 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodimide hydrochloride | 0.383 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2′-(N-tert.-butoxycarbonyl-β-alanyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)-carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.48 g | C(C)(C)(C)OC(=O)NCCC(=O)N(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NOC1OCCCC1)=O)=O)CC(C)C | C34H54N4O7
